US07371772B2
To a solution of methyl 8-(4-(2-butoxyethoxy)phenyl)-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylate (500 mg) and copper pivalate (108 mg) in dichloromethane (10 ml) was added triphenyl bismuth diacetate (1.36 g), and the mixture was stirred for 2 days. 3N Hydrochloric acid (10 ml) was added, and the mixture was stirred for 30 minutes, after which aqueous 1N sodium hydroxide solution (30 ml) was added at 0° C. The mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine, and dried with magnesium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1→ethyl acetate) to give methyl 8-(4-(2-butoxyethoxy)phenyl)-1-phenyl-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylate (238 mg) as a yellow oily material.

reactant | methyl 8-(4-(2-butoxyethoxy)phenyl)-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylate | 500 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCCN2)C(=O)OC)C1 | C25H31NO4
reactant | triphenyl bismuth diacetate | 1.36 g | C(C)(=O)O.C(C)(=O)O.C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
reactant | Hydrochloric acid | 3N, 10 ml | Cl | ClH
reactant | sodium hydroxide | 1N, 30 ml | [OH-].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | copper pivalate | 108 mg | C(C(C)(C)C)(=O)[O-].[Cu+2].C(C(C)(C)C)(=O)[O-]
product | methyl 8-(4-(2-butoxyethoxy)phenyl)-1-phenyl-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylate | 238 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCCN2C2=CC=CC=C2)C(=O)OC)C1 | C31H35NO4
